US08389523B2
5.0 g (21 mmol) of N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)benzene-1,2-diamine and 3.9 g (22 mmol) of diethyl ketomalonate were dissolved in toluene (60 ml), and the solution was heated to reflux for 12 hours while removing water using a Dean-Stark apparatus. The reaction solution was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent: ethyl acetate:hexane=2:3) to obtain 4.6 g (yield: 63%) of ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate as a milky yellow powder.

reactant | N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)benzene-1,2-diamine | 21 mmol, 5.0 g | O1C2=C(OCC1)C=C(C=C2)NC=2C(=CC=CC2)N | C14H14N2O2
reactant | diethyl ketomalonate | 22 mmol, 3.9 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 4.6 g, yield: 63% | O1C2=C(OCC1)C=C(C=C2)N2C(C(=NC1=CC=CC=C21)C(=O)OCC)=O | C19H16N2O5
